US07229986B2
Ethyl 6-[3-(dimethylamino)propanoyl]-3,4-dihydro-1(2H)-quinoline carboxylate
50% Aqueous dimethylamine (51 mL) was added to a solution of ethyl 6-(3-chloropropanoyl)-3,4-dihydro-1(2H)-quinoline carboxylate (15.0 g, 50.7 mmol) obtained in Reference Example 1 in dichloromethane at room temperature and then stirred for 2 hours. The reaction solution was separated, and the organic layer was washed with a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; hexane:ethyl acetate=1:1), whereby the title compound (16.3 g) was obtained as pale yellow matter.

reactant | dimethylamine | 51 mL | CNC | C2H7N
reactant | ethyl 6-(3-chloropropanoyl)-3,4-dihydro-1(2H)-quinoline carboxylate | 50.7 mmol, 15.0 g | ClCCC(=O)C=1C=C2CCCN(C2=CC1)C(=O)OCC | C15H18ClNO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 6-[3-(dimethylamino)propanoyl]-3,4-dihydro-1(2H)-quinoline carboxylate | CN(CCC(=O)C=1C=C2CCCN(C2=CC1)C(=O)OCC)C | C17H24N2O3
